US03956298
25 mg of lithium chloride are added to 5.25 g (0.02 mol) of 3,5-di-tert.-butyl-4-hydroxybenzyl-oxirane and 2.56 g (0.02 mol) of 5,5-dimethylhydantoin and the mixture is kept as a melt at 220°-230°C for 60 minutes whilst stirring in a nitrogen atmosphere. After cooling, a glassy residue is obtained, which when recrystallised from toluene/isopropanol gives 6.2 g (78% of theory) of 3-[2-hydroxy-3(3,5-di-tert.-butyl-4-hydroxyphenyl)-propyl] -5,5-dimethylhydantoin of melting point 175°-76°C in the form of colourless crystals.

reactant | 3,5-di-tert.-butyl-4-hydroxybenzyl-oxirane | 0.02 mol, 5.25 g | C(C)(C)(C)C=1C=C(CC2OC2)C=C(C1O)C(C)(C)C | C17H26O2
reactant | 5,5-dimethylhydantoin | 0.02 mol, 2.56 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
catalyst | lithium chloride | 25 mg | [Cl-].[Li+]
product | 3-[2-hydroxy-3(3,5-di-tert.-butyl-4-hydroxyphenyl)-propyl] -5,5-dimethylhydantoin | 6.2 g, 78% | OC(CN1C(NC(C1=O)(C)C)=O)CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C | C22H34N2O4
